US08242133B2
A mixture of 3.13 g of 2-hydroxy-3-nitro-5-trifluoromethylpyridine, 40 ml of methanol and 0.85 g of 5% palladium on carbon was stirred under about one atmosphere of hydrogen at room temperature for two hours. The reaction mixture was filtered through Celite™. The filtrate was concentrated under reduced pressure to give 2.66 g of 3-amino-2-hydroxy-5-trifluoromethylpyridine.

reactant | 2-hydroxy-3-nitro-5-trifluoromethylpyridine | 3.13 g | OC1=NC=C(C=C1[N+](=O)[O-])C(F)(F)F | C6H3F3N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.85 g | [Pd] | Pd
solvent | methanol | 40 ml | CO | CH4O
product | 3-amino-2-hydroxy-5-trifluoromethylpyridine | 2.66 g | NC=1C(=NC=C(C1)C(F)(F)F)O | C6H5F3N2O
